US05235050
3-(4,6-Dimethoxypyrimidin-2-yl)-3-methyl-1-[3-(N-methyl-N-methylsulfonyl-amino)-2-pyridylsulfonyl]-urea (one-pot reaction)
63.0 g (0.17 mol) of 3-butyl-1-[3-(N-methyl-N-methylsulfonylamino)-2-pyridylsulfonyl]urea are suspended in 1 l of chlorobenzene, and the suspension is heated to 70° C. At this temperature, the experiment starts to pass a gentle stream of phosgene into the suspension, and heating is continued for approx. 20 minutes until an internal temperature of 120° C. is reached. After phosgene has been passed in for a further 20 minutes (approx. 50 g (0.5 mol) in total), the lower-boiling components together with approx. 300 ml of chlorobenzene are removed from the reaction mixture by distillation over a period of 30 minutes. After the mixture has cooled to room temperature, 29.0 g (0.17 mol) of 4,6-dimethoxy-2-methylaminopyrimidine dissolved in 500 ml of dichloromethane are added, and the mixture is heated for 7 hours at 40° C. The mixture is cooled, the organic phase is washed with 1×250 ml each of 1N HCl and water, dried and evaporated. After the crude product has been triturated with diethyl ether, 66.6 g (85% of theory) of 3-(4,6-dimethoxypyrimidin-2-yl)-3-methyl-1-[3-(N-methyl-N-methylsulfonyl-amino)-2-pyridylsulfonyl]-urea of m.p. 167°-168° C. (decomp.) remained.

reactant | 3-butyl-1-[3-(N-methyl-N-methylsulfonylamino)-2-pyridylsulfonyl]urea | 0.17 mol, 63.0 g | C(CCC)NC(NS(=O)(=O)C1=NC=CC=C1N(S(=O)(=O)C)C)=O | C12H20N4O5S2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 4,6-dimethoxy-2-methylaminopyrimidine | 0.17 mol, 29.0 g | COC1=NC(=NC(=C1)OC)NC | C7H11N3O2
solvent | chlorobenzene | 1 l | ClC1=CC=CC=C1 | C6H5Cl
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 3-(4,6-Dimethoxypyrimidin-2-yl)-3-methyl-1-[3-(N-methyl-N-methylsulfonyl-amino)-2-pyridylsulfonyl]-urea | COC1=NC(=NC(=C1)OC)N(C(NS(=O)(=O)C1=NC=CC=C1N(S(=O)(=O)C)C)=O)C | C15H20N6O7S2
